US08017626B2
Method 32: 2-(7-(3,5-dimethylisoxazol-4-yl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid
Suspended Methyl 2-(7-(3,5-dimethylisoxazol-4-yl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate in 3 ml MeOH, 1 ml THF, and 2 ml 1M aqueous NaOH and stirred at 24° C. for 4 hours. The mixture was acidified to pH=1 using 2M aqueous HCl and the solids collected by filtration, washed with H2O and dried in vacuo: 50 mg white solids.

reactant | Methyl 2-(7-(3,5-dimethylisoxazol-4-yl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | CC1=NOC(=C1C1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)OC)O)C | C19H19N3O6
reactant | NaOH | 1M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | MeOH | 3 ml | CO | CH4O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-(7-(3,5-dimethylisoxazol-4-yl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid | CC1=NOC(=C1C1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)O)O)C | C18H17N3O6
